US04792562
N-(2-Chloro-1H-pyrrol-1-yl)-N-(4-pyridinyl)carbamic acid ethyl ester hydrochloride
To a solution of N-(4-pyridinyl)-N-(1H-pyrrol-1-yl)carbamic acid ethyl ester (9 g) in 100 ml of anhydrous tetrahydrofuran warmed to 50° was slowly dropped a solution of N-chlorosuccinimide (5.2 g) in 75 ml of anhydrous tetrahydrofuran. After stirring seven hours at 50°, the reaction mixture was cooled, stirred with an aqueous solution of sodium bisulfite and extracted with ethyl acetate. The organic extract was washed with water and saturated sodium chloride and thereafter dried over anhydrous magnesium sulfate, filtered and evaporated to 11.5 g of an oil. This oil was purified by HPLC (silica, 20% ethyl acetate in dichloromethane) to give 3.8 g of the desired product as a solid. This material was converted to the hydrochloride salt and twice recrystallized from isopropanol-ether to give 3.3 g of crystals, d 139°-140° C.

reactant | N-(4-pyridinyl)-N-(1H-pyrrol-1-yl)carbamic acid ethyl ester | 9 g | C(C)OC(N(N1C=CC=C1)C1=CC=NC=C1)=O | C12H13N3O2
reactant | N-chlorosuccinimide | 5.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | N-(2-Chloro-1H-pyrrol-1-yl)-N-(4-pyridinyl)carbamic acid ethyl ester hydrochloride | 3.8 g | Cl.C(C)OC(N(C1=CC=NC=C1)N1C(=CC=C1)Cl)=O | InChI=1S/C12H12ClN3O2.ClH/c1-2-18-12(17)16(10-5-7-14-8-6-10)15-9-3-4-11(15)13;/h3-9H,2H2,1H3;1H
